US07494996B2
The 0.4 g of 3-(4-chlorophenyl)-1,2,4-triazin-6-one (1.9 mmol) was placed in 10 mL of DMF and cooled in an ice bath. Sodium hydride (NaH) (0.8 g of 60% dispersion, 2 mmol) was added, and the reaction mixture was held for 15 minutes. Excess 1-chloro-2-pentyne was added, the bath was removed, and the reaction mixture was allowed to warm to room temperature. Water and ethyl acetate were added. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and stripped. The crude product was chromatographed on silica gel to give 0.05 g of 1-(2-pentynyl)-3-(4-chlorophenyl)-1,2,4-triazin-6-one.

reactant | 3-(4-chlorophenyl)-1,2,4-triazin-6-one | 1.9 mmol, 0.4 g | ClC1=CC=C(C=C1)C1=NNC(C=N1)=O | C9H6ClN3O
reactant | Sodium hydride | 2 mmol, 0.8 g | [H-].[Na+]
reactant | 1-chloro-2-pentyne | ClCC#CCC | C5H7Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2-pentynyl)-3-(4-chlorophenyl)-1,2,4-triazin-6-one | 0.05 g | C(C#CCC)N1N=C(N=CC1=O)C1=CC=C(C=C1)Cl | C14H12ClN3O
